US07034042B2
(E)-3-(5-Cyano-2-methoxy-phenyl)-N-((R)-2-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-1-{[(2-hydroxy-ethyl)-methyl-carbamoyl]-methyl}-ethyl)-acrylamide—Example 14
A solution of (R)-3-[(E)-3-(5-cyano-2-methoxy-phenyl)-acryloylamino]-4-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-butyric acid (0.1 g, 0.21 mmol) in DMF (1 ml) is treated with diisopropylethylamine (0.108 ml, 0.62 mmol) and 2-methylamino-ethanol (0.02 ml, 0.248 mmol). To the solution is added O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluroniumhexafluorophosphate (0.117 g, 0.31 mmol) and the reaction mixture stirred at room temperature for 1 hour. The reaction mixture is partioned between ethylacetate and saturated aqueous NaHCO3. The ethylacetate phase is washed with saturated brine, dried over MgSO4 and evaporated. The crude product is purified by flash silica chromatography (elution with 5:95 methanol/DCM) to afford (E)-3-(5-cyano-2-methoxy-phenyl)-.N.-((R)-2-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-1-{[(2-hydroxy-ethyl)-methyl-carbamoyl]-methyl}-ethyl)-acrylamide. [M-H] 537.02.

reactant | (R)-3-[(E)-3-(5-cyano-2-methoxy-phenyl)-acryloylamino]-4-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-butyric acid | 0.21 mmol, 0.1 g | C(#N)C=1C=CC(=C(C1)/C=C/C(=O)N[C@H](CC(=O)O)CN1CCC(CC1)OC1=CC=C(C=C1)F)OC | C26H28FN3O5
reactant | diisopropylethylamine | 0.62 mmol, 0.108 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-methylamino-ethanol | 0.248 mmol, 0.02 ml | CNCCO | C3H9NO
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluroniumhexafluorophosphate | 0.31 mmol, 0.117 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | ((R)-2-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-1-{[(2-hydroxy-ethyl)-methyl-carbamoyl]-methyl}-ethyl)-acrylamide | FC1=CC=C(OC2CCN(CC2)C[C@H](CC(N(C)CCO)=O)C(C(=O)N)=C)C=C1 | C21H30FN3O4
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | (E)-3-(5-Cyano-2-methoxy-phenyl)-N-((R)-2-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-1-{[(2-hydroxy-ethyl)-methyl-carbamoyl]-methyl}-ethyl)-acrylamide | C(#N)C=1C=CC(=C(C1)/C=C/C(=O)N[C@@H](CN1CCC(CC1)OC1=CC=C(C=C1)F)CC(N(C)CCO)=O)OC | C29H35FN4O5
